US08466282B2
1-(4-methoxybutyl)-N-[(3S,5R)-5-(3-methyl-1,2,4-oxadiazol-5-yl)piperidin-3-yl]-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (265 mg), N-hydroxy acetamidine (56 mg), 1H-benzotriazol-1-ol (95 mg) and N,N-diisopropylethylamine (259 μl)) were dissolved in DMF (10 ml), WSC.HCl (144 mg) was added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in toluene (15 ml), and the mixture was refluxed under heating for 15 hr. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1) was concentrated under reduced pressure to give tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine-1-carboxylate (324 mg). The obtained tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine-1-carboxylate was dissolved in 4M hydrogen chloride-ethyl acetate (5 ml), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated, and the residue was diluted with aqueous sodium bicarbonate, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure. The residue was dissolved in methanol (3 ml), 4M Hydrogen chloride-ethyl acetate (1 ml) was added and the mixture was stirred for 5 min. The solvent was evaporated under reduced pressure to give the object product (74 mg).

reactant | tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine-1-carboxylate | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C2=NC(=NO2)C)C(=O)OC(C)(C)C)CC(C)C | C30H44N6O5
reactant | hydrogen chloride-ethyl acetate | 4M, 5 ml | C(C)(=O)OCC.Cl
product | 1-(4-methoxybutyl)-N-[(3S,5R)-5-(3-methyl-1,2,4-oxadiazol-5-yl)piperidin-3-yl]-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride | 74 mg | Cl.Cl.COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N(CC(C)C)[C@@H]2CNC[C@@H](C2)C2=NC(=NO2)C | InChI=1S/C25H36N6O3.2ClH/c1-17(2)16-31(20-13-19(14-26-15-20)24-27-18(3)29-34-24)25(32)23-28-21-9-5-6-10-22(21)30(23)11-7-8-12-33-4;;/h5-6,9-10,17,19-20,26H,7-8,11-16H2,1-4H3;2*1H/t19-,20+;;/m1../s1
